US07176231B2
(3) 1,5-diacetyl-3-[(3-nitro-phenyl )-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 3-nitrobenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
product | 1,5-diacetyl-3-[(3-nitro-phenyl )-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H14N2O6
